US07585885B2
5-(Methanesulfonyl-methylamino)-N-methyl-N-propyl-isophthalamic acid
Dissolve 5-(methanesulfonyl-methylamino)-N-methyl-N-propyl-isophthalamic acid methyl ester (1.09 g, 3.18 mmol) in THF (80 mL) and add 1 N NaOH (16 mL, 16 mmol). Stir at room temperature for 16 h and add 5 N HCl (5 mL). Dilute with ethyl acetate, wash with saturated aqueous sodium chloride, dry (magnesium sulfate) and concentrate to give the title compound.

reactant | 5-(methanesulfonyl-methylamino)-N-methyl-N-propyl-isophthalamic acid methyl ester | 3.18 mmol, 1.09 g | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)N(C)S(=O)(=O)C)=O | C15H22N2O5S
reactant | NaOH | 16 mmol, 1 N, 16 mL | [OH-].[Na+]
reactant | HCl | 5 N, 5 mL | Cl | ClH
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(Methanesulfonyl-methylamino)-N-methyl-N-propyl-isophthalamic acid | CS(=O)(=O)N(C=1C=C(C=C(C(=O)O)C1)C(=O)N(CCC)C)C | C14H20N2O5S
